US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-(4-dimethylamino-benzyl)-N-ethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid with (4-ethylaminomethyl-phenyl)-dimethyl-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C19H23NO4S
reactant | (4-ethylaminomethyl-phenyl)-dimethyl-amine | C(C)NCC1=CC=C(C=C1)N(C)C | C11H18N2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-(4-dimethylamino-benzyl)-N-ethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC)CC1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)C | C30H39N3O3S
